US07485752B2
Benzoic acid N′-[3-(4′-fluoro-biphenyl-2-yl)-propionyl]-N′-isopropyl--hydrazide
A solution of benzoic acid N′-[3-(2-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide (50 mg, 0.13 mmol) in DME (4 ml)/2M Na2CO3 (225 μL, 0.45 mmol) was treated with 4-fluoro-phenylboronic acid (29 mg, 0.19 mmol) and Pd[PPh3]4 (15 mg, 0.013 mmol) for 18 hours at 90° C. The reaction mixture was partitioned between water and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-50% ethyl acetate/hexanes gradient to afford the product as a solid (41 mg, 79%). LC-MS m/e 405.25 (M+H+)

reactant | benzoic acid N′-[3-(2-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide | 0.13 mmol, 50 mg | BrC1=C(C=CC=C1)CCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C19H21BrN2O2
reactant | Na2CO3 | 0.45 mmol, 2M, 225 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluoro-phenylboronic acid | 0.19 mmol, 29 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DME | 4 ml | COCCOC | C4H10O2
product | Benzoic acid N′-[3-(4′-fluoro-biphenyl-2-yl)-propionyl]-N′-isopropyl--hydrazide | 41 mg, 79% | FC1=CC=C(C=C1)C1=C(C=CC=C1)CCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C25H25FN2O2
